US06573273B1
Using the general method of Example 149, 1-(3-aminopropyl)-2-butyl-1H-imidazo[4,5-c]quinolin-4-amine (1.0 g, 3.36 mmol) was reacted with 4-morpholinecarbonyl chloride (830 mg, 5.55 mmol) to provide 650 mg of N-[3-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)propyl]morpholine-4-carboxamide as a white powder, m.p. 193.4-194.6° C. Analysis: Calculated for C22H30N6O2: %C, 64.37; %H, 7.37; %N, 20.47; Found: %C, 64.00; %H, 7.32; %N, 20.16.

reactant | 1-(3-aminopropyl)-2-butyl-1H-imidazo[4,5-c]quinolin-4-amine | 3.36 mmol, 1.0 g | NCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCCC | C17H23N5
reactant | 4-morpholinecarbonyl chloride | 5.55 mmol, 830 mg | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
product | N-[3-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)propyl]morpholine-4-carboxamide | 650 mg | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCNC(=O)N2CCOCC2)CCCC | C22H30N6O2
